US09035059B2
2-(Trichloroacetyl)-N-[4-(trifluoromethyl)phenyl]-2,3-dihydro-1 H-isoindole-5-sulfonamide
To a solution of 4-trifluoromethyl aniline (213 μL, 1.70 mmol) in pyridine (270 μL) was added 2-(trichloroacetyl)-2,3-dihydro-1 H-isoindole-5-sulfonyl chloride (617 mg, 1.70 mmol) at room temperature, and the mixture was stirred at 60° C. for 1.5 hr. The reaction mixture was allowed to cool to room temperature and diluted with ethyl acetate. The mixture was washed with 1 mol/L hydrochloric acid, brine and water. The organic layer was dried over anhydrous sodium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1→2:1) to afford the title compound as a colorless powder (586 mg).

reactant | 4-trifluoromethyl aniline | 1.70 mmol, 213 μL | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | 2-(trichloroacetyl)-2,3-dihydro-1 H-isoindole-5-sulfonyl chloride | 1.70 mmol, 617 mg | ClC(C(=O)N1CC2=CC=C(C=C2C1)S(=O)(=O)Cl)(Cl)Cl | C10H7Cl4NO3S
solvent | pyridine | 270 μL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(Trichloroacetyl)-N-[4-(trifluoromethyl)phenyl]-2,3-dihydro-1 H-isoindole-5-sulfonamide | 586 mg | ClC(C(=O)N1CC2=CC=C(C=C2C1)S(=O)(=O)NC1=CC=C(C=C1)C(F)(F)F)(Cl)Cl | C17H12Cl3F3N2O3S
